US03975310
By replacing hereabove 2,6,6-trimethyl-1-[1-hydroxy-3-butenyl]-1-cyclohexene with 2,6,6-trimethyl-1-[1-hydroxy-3-methyl-3-butenyl]-1-cyclohexene (nD20 = 1.4939; d420 = 0.9270), 2,6,6-trimethyl-1-[3-methyl-3-butenoyl]-1-cyclohexene was obtained; ndD20 = 1.4862; d420 = 0.9307.

reactant | 2,6,6-trimethyl-1-[1-hydroxy-3-butenyl]-1-cyclohexene | CC1=C(C(CCC1)(C)C)C(CC=C)O | C13H22O
reactant | 2,6,6-trimethyl-1-[1-hydroxy-3-methyl-3-butenyl]-1-cyclohexene | CC1=C(C(CCC1)(C)C)C(CC(=C)C)O | C14H24O
product | 2,6,6-trimethyl-1-[3-methyl-3-butenoyl]-1-cyclohexene | CC1=C(C(CCC1)(C)C)C(CC(=C)C)=O | C14H22O
